US06313344B1
d) 1-(4-[{Dimethyl-(4-fluorophenyl)silyl}methoxy]phenyl)propane-1,2-dione-1-ethyloxime
13.8 g of 1-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-propane-1,2-dione-1-oxime, 4 ml of ethyl bromide and 9 g of potassium carbonate are stirred in 150 ml of dimethylformamide for 2 hours at room temperature. 200 ml of diethyl ether are added to the reaction mixture, which is then washed with water and saturated sodium chloride solution; the organic phase is dried and the solvent is evaporated off to yield the title product in the form of an oil.

reactant | 1-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-propane-1,2-dione-1-oxime | 13.8 g | C[Si](C1=CC=C(C=C1)F)(C)COC1=CC=C(C=C1)C(C(C)=O)=NO | C18H20FNO3Si
reactant | ethyl bromide | 4 ml | C(C)Br | C2H5Br
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-(4-[{Dimethyl-(4-fluorophenyl)silyl}methoxy]phenyl)propane-1,2-dione-1-ethyloxime | C(C)ON=C(C(C)=O)C1=CC=C(C=C1)OC[Si](C1=CC=C(C=C1)F)(C)C | C20H24FNO3Si
